US06734302B2
Phosgene (0.325 mL, 0.64 mmol, 1.93 M in toluene) was added dropwise to a mixture of triethylamine (0.126 mL, 0.896 mmol) and 4,5-bis-(4-chloro-phenyl)-2-(4-ethoxy-2-isopropoxy-phenyl)-4,5-dihydro-1H-imidazole (60 mg, 0.128 mmol) in methylene chloride (5 mL) at 0° C. The reaction mixture was stirred for 30 min at 0° C. and evaporated. The residue was kept under high vacuum for 30 min. Methylene chloride (5 mL) was added to the residue and the solution was added dropwise to a solution of piperazine (0.22 mg, 2.56 mmol) in methylene chloride (5 mL) at 0° C. over 15 min. After 1 h, the reaction was worked up with aqueous sodium bicarbonate. The mixture was extracted with methylene chloride and washed with water and brine. The organic extracts were dried over sodium sulfate and evaporated. Purification using reverse phase HPLC gave [4,5-bis-(4-chloro-phenyl)-2-(4-ethoxy-2-isopropoxy-phenyl)-4,5-dihydro-imidazol-1-yl]-piperazin-1-yl-methanone (6.5 mg, 8%). HR-MS (ES, m/z) calculated for C31H35N4O3Cl2[(M+H)+]581.2081, observed 581.2086.

reactant | Phosgene | 0.64 mmol, 1.93 M, 0.325 mL | C(=O)(Cl)Cl | CCl2O
reactant | triethylamine | 0.896 mmol, 0.126 mL | C(C)N(CC)CC | C6H15N
reactant | 4,5-bis-(4-chloro-phenyl)-2-(4-ethoxy-2-isopropoxy-phenyl)-4,5-dihydro-1H-imidazole | 0.128 mmol, 60 mg | ClC1=CC=C(C=C1)C1N=C(NC1C1=CC=C(C=C1)Cl)C1=C(C=C(C=C1)OCC)OC(C)C | C26H26Cl2N2O2
reactant | piperazine | 2.56 mmol, 0.22 mg | N1CCNCC1 | C4H10N2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | [4,5-bis-(4-chloro-phenyl)-2-(4-ethoxy-2-isopropoxy-phenyl)-4,5-dihydro-imidazol-1-yl]-piperazin-1-yl-methanone | 6.5 mg, 8% | ClC1=CC=C(C=C1)C1N=C(N(C1C1=CC=C(C=C1)Cl)C(=O)N1CCNCC1)C1=C(C=C(C=C1)OCC)OC(C)C | C31H34Cl2N4O3
